US07863271B2
To a solution of (S)-1-allyl-3-isobutylpiperazine (442 mg, 2.42 mmol) in DME (10 mL) at room temperature, was added NaH (60% suspension in mineral oil, 100 mg, 2.42 mmol) and the mixture was stirred for 45 min. Methyl 2-chlorobenzoxazole-4-carboxylate (510 mg, 2.42 mmol) was added to the reaction mixture and the reaction was stirred at room temperature for 17 h. The reaction mixture was quenched with CH3OH (10 mL), silica gel (15 mL) was added, and solvent removed under reduced pressure. The mixture was purified by column chromatography (silica gel, 10:1:0.1 CH2Cl2/CH3OH/concentrated NH4OH) to afford methyl 2-(4-allyl-(S)-2-isobutylpiperazine-1-yl)benzoxazole-4-carboxylate (372 mg, 43%) as a yellow oil. 1H NMR and MS consistent.

reactant | (S)-1-allyl-3-isobutylpiperazine | 2.42 mmol, 442 mg | C(C=C)N1C[C@@H](NCC1)CC(C)C | C11H22N2
reactant | NaH | 2.42 mmol, 100 mg | [H-].[Na+]
reactant | Methyl 2-chlorobenzoxazole-4-carboxylate | 2.42 mmol, 510 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | DME | 10 mL | COCCOC | C4H10O2
product | methyl 2-(4-allyl-(S)-2-isobutylpiperazine-1-yl)benzoxazole-4-carboxylate | 372 mg, 43% | C(C=C)N1C[C@@H](N(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)CC(C)C | C20H27N3O3
